US06838463B2
In 2 ml of ethanol was suspended 0.5 g of 6-(2-butynyloxy)-4-benzoylpyrimidine, to which 0.11 g of sodium borohydride was added, followed by stirring at 0° C. for 4 hours. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution and extracted three times with ethyl acetate. The organic layers were combined and washed with a saturated aqueous sodium chloride solution, and the combined organic layer was then dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 0.4 g of 6-(2-butynyloxy)-4-(α-hydroxybenzyl)pyrimidine (the present compound (123)).

reactant | 6-(2-butynyloxy)-4-benzoylpyrimidine | 0.5 g | C(C#CC)OC1=CC(=NC=N1)C(C1=CC=CC=C1)=O | C15H12N2O2
reactant | sodium borohydride | 0.11 g | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 6-(2-butynyloxy)-4-(α-hydroxybenzyl)pyrimidine | 0.4 g | C(C#CC)OC1=CC(=NC=N1)C(C1=CC=CC=C1)O | C15H14N2O2
